US07176242B2
N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-methyl-5-(1,3-oxazol-2-yl)benzamide hydrochloride
A solution of the acid from step 6 (358 mg, 1.8 mmol), HATU (1.0 g, 2.6 mmol), HOBt (357 mg, 2.6 mmol), and diisopropylethylamine (500 μL, 2.6 mmol) was stirred in methylene chloride (2.0 mL) for 15 min. A solution of dihydrochloride of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (718 mg, 1.8 mmol) and diisopropylethylamine (500 μL, 2.6 mmol) in methylene chloride (2.0 mL) was added and the reaction mixture was stirred overnight. The reaction mixture was diluted with methylene chloride, washed with 1 N hydrochloric acid (20 mL), saturated sodium bicarbonate (20 mL), and saturated sodium chloride, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided a clear solid. The solid was dissolved in methanol (2 mL), and treated with hydrochloric acid (0.5 mL of a 1.0 M solution in diethyl ether, 0.5 mmol). The resulting precipitate was collected by filtration to provide the title compound (250 mg): mp 105–107° C.; APCI MS m/z 520 [M+H]+.

reactant | HATU | 2.6 mmol, 1.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 2.6 mmol, 357 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 2.6 mmol, 500 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 1.8 mmol, 718 mg | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | diisopropylethylamine | 2.6 mmol, 500 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-3-methyl-5-(1,3-oxazol-2-yl)benzamide hydrochloride | 250 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=CC(=C2)C=2OC=CN2)C)=O)C=C(C1)F | InChI=1S/C30H31F2N3O3.ClH/c1-3-20-5-4-6-21(11-20)17-33-18-28(36)27(14-22-12-25(31)16-26(32)13-22)35-29(37)23-9-19(2)10-24(15-23)30-34-7-8-38-30;/h4-13,15-16,27-28,33,36H,3,14,17-18H2,1-2H3,(H,35,37);1H/t27-,28+;/m0./s1
